US09233098B2
3. Preparation of ethyl 2-[1-[4-(6-fluoro-2-naphthamido)benzyl]-1H-indazol-3-yl]acetate
The crude ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate (about 1.0 mmol) obtained in the last step and triethylamine (1.4 mL) were dissolved in dichloromethane (15 mL). In an ice bath, dichloromethane solution (10 mL) of the prepared 6-fluoro-2-naphthoyl chloride (about 1.2 mmol) was added dropwise slowly. Upon completion of the dropwise addition, it was reacted at room temperature for 16 hours. An aqueous solution of sodium bicarbonate was added to quench, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and filtered. The filtrate was removed under reduced pressure, and the resulting residue was chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a white solid 262 mg, at a total yield over two steps of reactions of 54.4%.

reactant | ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate | about 1.0 mmol | NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 6-fluoro-2-naphthoyl chloride | about 1.2 mmol | FC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C11H6ClFO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 2-[1-[4-(6-fluoro-2-naphthamido)benzyl]-1H-indazol-3-yl]acetate | 262 mg | FC=1C=C2C=CC(=CC2=CC1)C(=O)NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C29H24FN3O3
